US09145415B2
To a solution of N-Boc-N-methyl-L-alanine (195 mg) in N,N-dimethylformamide (2.5 mL), N-methylmorpholine (246 μL) and isobutyl chloroformate (105 μL) were added under ice cooling, and the mixture was stirred at the same temperature for 2 minutes. To the reaction mixture, a solution of (1S,3R)-3-((2-chloro-4-methoxypyrimidin-5-yl)ethynyl)cyclohexaneamine (Q3) hydrochloride in N,N-dimethylformamide (2 mL) was added under ice cooling, and the mixture was stirred at the same temperature for 1 hour and 30 minutes. To the reaction mixture, saturated aqueous sodium hydrogencarbonate and ethyl acetate were added. The organic layer was separated, washed successively with water, saturated aqueous sodium hydrogencarbonate and saturated aqueous sodium chloride, and then dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent, 88 to 40% hexane in ethyl acetate) to obtain tert-butyl ((S)-1-(((1S,3R)-3-((2-chloro-4-methoxypyrimidin-5-yl)ethynyl)cyclohexyl)amino)-1-oxopropan-2-yl)(methyl)carbamate (Q4, 120 mg).

reactant | N-Boc-N-methyl-L-alanine | 195 mg | C(=O)(OC(C)(C)C)N([C@@H](C)C(=O)O)C | C9H17NO4
reactant | (1S,3R)-3-((2-chloro-4-methoxypyrimidin-5-yl)ethynyl)cyclohexaneamine | ClC1=NC=C(C(=N1)OC)C#C[C@H]1C[C@H](CCC1)N | C13H16ClN3O
reactant | hydrochloride | Cl | ClH
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 2.5 mL | CN(C=O)C | C3H7NO
solvent | N-methylmorpholine | 246 μL | CN1CCOCC1 | C5H11NO
solvent | isobutyl chloroformate | 105 μL | ClC(=O)OCC(C)C | C5H9ClO2
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl ((S)-1-(((1S,3R)-3-((2-chloro-4-methoxypyrimidin-5-yl)ethynyl)cyclohexyl)amino)-1-oxopropan-2-yl)(methyl)carbamate | 120 mg | ClC1=NC=C(C(=N1)OC)C#C[C@H]1C[C@H](CCC1)NC([C@H](C)N(C(OC(C)(C)C)=O)C)=O | C22H31ClN4O4
